US07683067B2
2-Hydroxy-N-(2-methoxyethyl)-3-[5-(morpholin-4-ylsulfonyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride
Starting materials: 4-[(6-chloropyridin-3-yl)sulfonyl]morpholine and N-(2-methoxyethyl)-2-oxoindoline-5-carboxamide. Yield: 7%: 1H NMR (DMSO-d, 400 MHz) δ 10.85 (s, 1H), 8.45 (m, 2H), 7.99 (s, 1H), 7.74 (s, 2H), 7.58 (m, 1H), 6.94 (d, J=8 Hz, 1H), 3.65 (m, 4H), 3.45 (m, 4H), 3.27 (s, 3H), 3.00 (m, 4H); MS (ES) m/z 461 (M++1).

reactant | 4-[(6-chloropyridin-3-yl)sulfonyl]morpholine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCOCC1 | C9H11ClN2O3S
reactant | N-(2-methoxyethyl)-2-oxoindoline-5-carboxamide | COCCNC(=O)C=1C=C2CC(NC2=CC1)=O | C12H14N2O3
product | 2-Hydroxy-N-(2-methoxyethyl)-3-[5-(morpholin-4-ylsulfonyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride | Yield: 7% | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCOCC1)C(=O)NCCOC | InChI=1S/C21H24N4O6S.ClH/c1-30-9-6-22-20(26)14-2-4-17-16(12-14)19(21(27)24-17)18-5-3-15(13-23-18)32(28,29)25-7-10-31-11-8-25;/h2-5,12-13,24,27H,6-11H2,1H3,(H,22,26);1H
